US05612340
21.28 g (84.7 mmol) of 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate are added to a solution of 17.4 g (84.7 mmol) of 3-dimethylamino-1-(3-methoxy-phenyl)-2-propen-1-one in 100 ml of 2-propanol. After the addition of 3.72 g (93.2 mmol) of sodium hydroxide, the reaction mixture is boiled under reflux for 21.3 h. After cooling to RT, the product is isolated by filtration and washed with 1-propanol and water. After drying at 60° under HV, N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(3-methoxy-phenyl)-2-pyrimidineamine is obtained; Rf =0.7 (methylene chloride:methanol =9:1), FAB-MS: 397 (M+ +1), m.p. 103°-104°.

reactant | 3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl-guanidine nitrate | 84.7 mmol, 21.28 g | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
reactant | 3-dimethylamino-1-(3-methoxy-phenyl)-2-propen-1-one | 84.7 mmol, 17.4 g | CN(C=CC(=O)C1=CC(=CC=C1)OC)C | C12H15NO2
reactant | sodium hydroxide | 93.2 mmol, 3.72 g | [OH-].[Na+]
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(3-methoxy-phenyl)-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=CC=C1)OC)F | C19H15F4N3O2
